US05650422
By the method of Example 44 condensation of 2-chloromethyl-4-ethyl-5,7-dimethoxy-6-methylsaccharin (0.17 g) and 1-phenyltetrazol-5-thiol sodium salt (0.084 g) in dimethylformamide (4 mL) and purification of the product by flash column chromatography on silica gel using hexane-ethyl acetate (75:25) as eluant afforded 2-(1-phenyltetrazol-5-yl)thiomethyl-4-ethyl-5,7-dimethoxy-6-methylsaccharin, 0.15 g, 76% yield, mp 44°-46° C.

reactant | 2-chloromethyl-4-ethyl-5,7-dimethoxy-6-methylsaccharin | 0.17 g | ClCN1S(=O)(=O)C2=C(C(=C(C(=C2C1=O)CC)OC)C)OC | C13H16ClNO5S
reactant | 1-phenyltetrazol-5-thiol sodium salt | 0.084 g | [Na].C1(=CC=CC=C1)N1N=NN=C1S
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-ethyl-5,7-dimethoxy-6-methylsaccharin | 76% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=C(C(=C(C(=C2C1=O)CC)OC)C)OC | C20H21N5O5S2
